US09260427B2
To a stirring solution of (S)-4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoic acid INT-1 (260 mg, 0.68 mmol) in THF (5 mL) were added 4-methylmorpholine (0.15 mL, 1.36 mmol) and isobutyl carbonochloridate (0.09 mL, 0.71 mmol). After stirring at room temperature for 2 h, 4-(heptyloxy)benzohydrazide (187 mg, 0.75 mmol) was added and stirring continued for another 2 h. The reaction mixture was poured onto NaHCO3 (50 mL) and extracted with DCM (3×20 mL). The combined organics were dried over MgSO4 and evaporated. The crude product was purified by column chromatography (100% EA in iso-hexanes) to afford 297 mg (71%) of (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(2-(4-(heptyloxy)benzoyl)hydrazinecarbonyl)phenyl)propanoate INT-3 as an off-white foam. LCMS-ESI (m/z) calculated for C36H45N3O6: 615.8 found 616.0 [M+H]+, tR=2.89 min. (Method 4).

reactant | (S)-4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoic acid | C(C)(C)(C)C1=CC=C(C(=O)N[C@@H](CC2=CC=C(C(=O)O)C=C2)C(=O)OC)C=C1 | C22H25NO5
reactant | 4-methylmorpholine | 1.36 mmol, 0.15 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl carbonochloridate | 0.71 mmol, 0.09 mL | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | 4-(heptyloxy)benzohydrazide | 0.75 mmol, 187 mg | C(CCCCCC)OC1=CC=C(C(=O)NN)C=C1 | C14H22N2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(2-(4-(heptyloxy)benzoyl)hydrazinecarbonyl)phenyl)propanoate | 297 mg, 71% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C(=O)NNC(C2=CC=C(C=C2)OCCCCCCC)=O)C=C1 | C36H45N3O6
